* 310V to 5V interleaved 2-phase buck, 150W
* D=16.1m, t_on=161n, 180-deg phase shift
Vin in 0 310
M1 in gate1 sw1 0 NMOS W=1 L=1
M2 in gate2 sw2 0 NMOS W=1 L=1
D1 0 sw1 DIODE
D2 0 sw2 DIODE
L1 sw1 out 100u
L2 sw2 out 100u
C1 out 0 220u
Rload out 0 167m
Vgate1 gate1 0 PULSE(0 12 0 1n 1n 161n 10u)
Vgate2 gate2 0 PULSE(0 12 5u 1n 1n 161n 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
