* top2
.tran 1n 5m
Vin in 0 208
M1 in gate sw 0 NMOS W=2 L=0.5
D1 0 sw DIODE
L1 sw out 50u
C1 out 0 220u
Rload out 0 1.4
Vgate gate 0 PULSE(0 208 0 1n 1n 0.0166667 1e-05)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.end
