* top5
.tran 1n 5m
Vin in 0 208
M1 in gate sw 0 NMOS W=0.5 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 470u
Rload out 0 2.083
Vgate gate 0 PULSE(0 208 0 1n 1n 2.85714e-06 1e-05)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.end
