* top1
.tran 1n 5m
Vin in 0 12
M1 in gate1 sw1 0 NMOS W=1 L=1
M2 in gate2 sw2 0 NMOS W=1 L=1
D1 0 sw1 DIODE
D2 0 sw2 DIODE
L1 sw1 out 380u
L2 sw2 out 380u
C1 out 0 470u
Rload out 0 0.278
Vgate1  gate1  0 PULSE(0 12 0 1n 1n 4.16667e-06 1e-05)
Vgate2  gate2  0 PULSE(0 12 0 1n 1n 4.16667e-06 1e-05)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.end
