* top3
.tran 1n 5m
Vin in 0 24
M1 in gate sw 0 NMOS W=5 L=2
M2 in gate2 sw 0 NMOS W=5 L=2
D1 0 sw DIODE
L1 sw out 250u
C1 out 0 220u
Rload out 0 0.52
Vgate gate 0 PULSE(0 24 0 1n 1n 24.16667e-07 25e-06)
Vgate2 gate2 0 PULSE(0 24 12.5e-06 1n 1n 24.16667e-07 25e-06)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.end
