* top6
.tran 1n 5m
Vin in 0 12
M1 in gate1 sw1 0 NMOS W=2 L=0.5
M2 in gate2 sw2 0 NMOS W=2 L=0.5
D1 0 sw1 DIODE
D2 0 sw2 DIODE
L1 sw1 out 220u
L2 sw2 out 220u
C1 out 0 470u
Rload out 0 10
Vgate1 gate1 0 PULSE(0 12 0 1n 1n 0.5 2.5)
Vgate2 gate2 0 PULSE(0 12 1.25 1n 1n 0.5 2.5)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.end
