* top1
.tran 1n 5m
Vin in 0 9
Rbleed1 0 in 1Meg
M1 in gate sw1 0 NMOS W=1 L=0.0001
M2 in gate2 sw2 0 NMOS W=1 L=0.0001
D1 0 sw1 DIODE
D2 0 sw2 DIODE
L1 sw1 out 10u
L2 sw2 out 10u
C1 out 0 1u
Rload out 0 0.16666666666666666
Vgate gate 0 PULSE(0 9 0 1n 1n 0.000016666666666666666 0.00005)
Vgate2 gate2 0 PULSE(0 9 5e-06 1n 1n 0.000016666666666666666 0.00005)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.end
