* top2
.tran 1n 5m
Vin in 0 5
M1 in gate sw 0 NMOS W=2 L=2
D1 0 sw DIODE
L1 sw out 50u
C1 out 0 820u
Rload out 0 0.049
Vgate gate 0 PULSE(0 5 0 1n 1n 4.16667e-06 1e-05)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.end
